US06090836
Using the procedure in Example 51, step 1, 4,4,4-trifluoro-butyric acid and 2-(n-propyl)resorcinol were condensed in triflic acid to form 1,3-dihydroxy-2-(n-propyl)-4-(4,4,4-trifluorobutyryl)benzene

reactant | 4,4,4-trifluoro-butyric acid | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | 2-(n-propyl)resorcinol | C(CC)C1=C(O)C=CC=C1O | C9H12O2
solvent | triflic acid | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 1,3-dihydroxy-2-(n-propyl)-4-(4,4,4-trifluorobutyryl)benzene | OC1=C(C(=C(C=C1)C(CCC(F)(F)F)=O)O)CCC | C13H15F3O3
